US07652051B2
Synthesis of 4-(3-amino-benzo[1,2,4]triazin-7-yloxy)-pyridine-2-carboxylic acid methylamide
3.2 g (19.73 mmol) of 3-amino-benzo[1,2,4]triazine-7-ol was dissolved in 80 mL of anhydrous dimethylformamide under argon atmosphere. 2.44 g (21.71 mmol, 1.1 equivalent) of solid potassium tert-butoxide was added to the solution. The resulting dark-red mixture was heated to about 100° C. and stirred at that temperature for 15 min. A solution of 3.7 g (21.71 mmol, 1.1 equivalent) of 4-chloro-pyridine-2-carboxylic acid methylamide in 10 mL of anhydrous dimethylformamide was added, followed by 3.28 g (23.68 mmol, 1.2 equivalent) of anhydrous K2CO3. The reaction mixture was heated at 140° C. for 30 hrs. The progress of the reaction was monitored by LC/MS. Then it was allowed to cool down to ambient temperature. The resulting dark-brown slurry was poured into 500 mL of water and 100 mL of ethyl acetate. The formed precipitate was collected by filtration, washed with 50 mL of water, 50 mL of methanol, 50 mL of diethyl ether and dried in vacuum to produce 3.22 g of the product as a dirty-yellow solid. The filtrate was extracted four times with 100 mL of ethyl acetate. The combined extracts were washed 3 times with 100 mL of water, then with brine and dried over anhydrous sodium sulfate. Solvent was removed in vacuum to yield additional 1.2 g of the product in a form of a yellow solid. Yield: 75% combined.

reactant | 3-amino-benzo[1,2,4]triazine-7-ol | 19.73 mmol, 3.2 g | NC=1N=NC2=C(N1)C=CC(=C2)O | C7H6N4O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-chloro-pyridine-2-carboxylic acid methylamide | 21.71 mmol, 3.7 g, 1.1 equivalent | CNC(=O)C1=NC=CC(=C1)Cl | C7H7ClN2O
reactant | K2CO3 | 23.68 mmol, 3.28 g, 1.2 equivalent | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 500 mL | O | H2O
product | 4-(3-amino-benzo[1,2,4]triazin-7-yloxy)-pyridine-2-carboxylic acid methylamide | 3.22 g | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(N=N2)N)C=C1 | C14H12N6O2
